US07776864B2
Step 3: 5-Chloro-2-isopropyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine
6.00 g 5,7-dichloro-2-isopropyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine is dissolved in 360 ml dichloromethane. 360 ml brine, 120 ml ammonia solution 25% w/w and 6.00 g zinc powder are added and the mixture is stirred at room temperature for 3 h. The reaction mixture is filtrated over kieselgur and is washed with dichloromethane and water. The organic phase is separated and the water phase is extracted with dichloromethane. The combined dichloromethane phase is dried over Na2SO4 and evaporated. The crude product contains 5,7-dichloro-2-isopropyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine. The crude product is dissolved again in dichloromethane. 360 ml brine, 120 ml ammonia solution 25% w/w and 6.00 g zinc powder are added and the mixture is stirred at room temperature for 2 h. The reaction mixture is filtrated over kieselgur and washed with dichloromethane and water. The organic phase is separated and the water phase is extracted with dichloromethane. The combined organic layers are dried over sodium sulphate and the solvent is evaporated. The product is used without further purification.

reactant | 5,7-dichloro-2-isopropyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 6.00 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=C(N2)C(C)C | C14H12Cl2N4
reactant | ammonia | 120 ml | N | H3N
solvent | dichloromethane | 360 ml | ClCCl | CH2Cl2
solvent | brine | 360 ml | [Cl-].[Na+].O
catalyst | zinc | 6.00 g | [Zn] | Zn
product | 5-Chloro-2-isopropyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=C(N2)C(C)C | C14H13ClN4
